US05273994
3-[N-(4-phthalimidobutyl)amino]-5-methoxychroman
In a round bottomed flask, 2.2 mmol of 3-amino-5-methoxychroman (described in Patent EP 279,150) are dissolved in 6 ml of dimethylformamide in the presence of 2.4 mmol of N-(4-bromobutyl)phthalimide, 6.6 mmol of potassium carbonate and a catalytic amount of potassium iodide. The mixture is left stirring at 60° C. for 6 hours. After cooling, the solvent is evaporated off and, after aqueous hydrolysis, the crude reaction mixture is extracted with dichloromethane. After washing, drying and evaporation of the organic phase, the expected product is obtained after purification by chromatography on a silica column (elution solvent: ether/petroleum ether, 5:95).

reactant | 3-amino-5-methoxychroman | 2.2 mmol | NC1COC2=CC=CC(=C2C1)OC | C10H13NO2
reactant | N-(4-bromobutyl)phthalimide | 2.4 mmol | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
reactant | potassium carbonate | 6.6 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 3-[N-(4-phthalimidobutyl)amino]-5-methoxychroman | Yield: 67% | C1(C=2C(C(N1CCCCNC1COC3=CC=CC(=C3C1)OC)=O)=CC=CC2)=O | C22H24N2O4
